US07985755B2
2-[1-(2-Chlorophenyl)piperidin-4-ylmethoxy]-6-fluorobenzonitrile (0.28 g; 0.81 mmol) and guanidine carbonate (0.293 mg; 1.6 mmol) were heated at 140° C. in dimethylacetamide for 2 days, then cooled back to room temperature. The reaction mixture was diluted with water, stirred for 45 minutes, filtered, triturated with ethanol, and filtered. Solids were dried to afford 90 milligrams of 5-[1-(2-chlorophenyl)-piperidin-4-ylmethoxy)quinazoline-2,4-diamine (29% yield).

reactant | 2-[1-(2-Chlorophenyl)piperidin-4-ylmethoxy]-6-fluorobenzonitrile | 0.81 mmol, 0.28 g | ClC1=C(C=CC=C1)N1CCC(CC1)COC1=C(C#N)C(=CC=C1)F | C19H18ClFN2O
reactant | guanidine carbonate | 1.6 mmol, 0.293 mg | C(O)(O)=O.NC(=N)N
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | 5-[1-(2-chlorophenyl)-piperidin-4-ylmethoxy)quinazoline-2,4-diamine | 90 milligrams, 29% yield | ClC1=C(C=CC=C1)N1CCC(CC1)COC1=C2C(=NC(=NC2=CC=C1)N)N | C20H22ClN5O
